US08802659B2
2-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-naphthalen-2-ylmethyl]-amino}-ethanesulfonic acid
Taurine (0.03737 g, 0.2986 mmol) was added to a solution of 6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-2-naphthaldehyde (0.1130 g, 0.2986 mmol) in Ethanol (3.00 mL, 51.4 mmol) and the mixture was refluxed for 1 hour. The mixture was cooled to room temperature and Sodium cyanoborohydride (0.02252 g, 0.3583 mmol) was added. The mixture was then refluxed overnight. The reaction mixture was cooled to room temperature, washed with saturated aqueous citric acid solution (4 ml), then concentrated to dryness under reduced pressure. The resulting solid was washed with water and filtered. The residue was washed with water (10 mL), ether (10 mL) and hexane (10 mL) consecutively, then filtered. The residue was purified by prep HPLC to give the title compound. ESI-MS (M+H+): 488.3; 1H NMR (400 MHz, DMSO-d6) Shift 8.46-8.52 (m, 1H), 7.83-7.88 (m, 1H), 7.73-7.80 (m, 2H), 7.35-7.40 (m, 2H), 4.21-4.30 (m, 1H), 4.02 (br. s., 2H), 2.88 (t, J=6.78 Hz, 2H), 2.50 (d, J=13.80 Hz, 2H), 1.77-1.85 (m, 2H), 1.43-1.52 (m, 2H), 1.00-1.13 (m, 2H), 0.67-0.92 (m, 3H), 0.53 (s, 9H).

reactant | Taurine | 0.2986 mmol, 0.03737 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | 6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-2-naphthaldehyde | 0.2986 mmol, 0.1130 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)C=O)C(F)(F)F | C22H25F3O2
reactant | Ethanol | 51.4 mmol, 3.00 mL | C(C)O | C2H6O
reactant | Sodium cyanoborohydride | 0.3583 mmol, 0.02252 g | C(#N)[BH3-].[Na+]
product | 2-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-naphthalen-2-ylmethyl]-amino}-ethanesulfonic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CNCCS(=O)(=O)O)C(F)(F)F | C24H32F3NO4S
